US04064251
A suspension of 28 g. (0.13 mole) of 3-phenyl-N,5-dimethyl- isoxazole-4-carboxamide and 330 milliliters of tetrahydrofuran is cooled to -65° C. and 180 milliliters of 1.6M n-butyllithium in hexane (0.288 mole) is added dropwise, maintaining the temperature between -60° and -70° C. After the addition is complete, the organic suspension is stirred for 11/2 hours at -60° to -70° C., and then 19.6 g. (0.13 mole) of ethyl picolinate in 196 ml. tetrahydrofuran is added drop-wise maintaining the temperature between -60° and -70° C. After addition is complete, the mixture is stirred 11/2 hours at -60° to -70° C. and then warmed to -30° C. and quenched by the addition of saturated ammonium chloride solution. The mixture is further diluted with tetrahydrofuran and the layers are separated. The tetrahydrofuran layer is washed twice with 50% brine, and once with brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The solid residue is triturated with ether and filtered to give 3-phenyl-5-(2-pyridylcarbonylmethyl)-N-methyl-isoxazole-4-carboxamide; m.p. 146° to 149° C.

reactant | 3-phenyl-N,5-dimethyl- isoxazole-4-carboxamide | 0.13 mole | C1(=CC=CC=C1)C1=NOC(=C1C(=O)NC)C | C12H12N2O2
reactant | n-butyllithium | 1.6M, 180 milliliters | C(CCC)[Li]
reactant | hexane | 0.288 mole | CCCCCC | C6H14
reactant | ethyl picolinate | 0.13 mole | N1=C(C=CC=C1)C(=O)OCC | C8H9NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 330 milliliters | O1CCCC1 | C4H8O
product | 3-phenyl-5-(2-pyridylcarbonylmethyl)-N-methyl-isoxazole-4-carboxamide | C1(=CC=CC=C1)C1=NOC(=C1C(=O)NC)CC(=O)C1=NC=CC=C1 | C18H15N3O3
